US04382089
A mixture of 1.73 g (13.2 mmol) of N-acetyl-L-alanine, 0.97 ml (13.2 mmol) of thionyl chloride, 1.02 ml (13.02 mmol) dimethylformamide, and 50 ml of dichloromethane is stirred at -20° to -30° for 20 minutes. A mixture of 2.45 g (12 mmol) of 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 5.04 ml (36 mmol) triethylamine, 4.57 ml (36 mmol) chlorotrimethylsilane and 100 ml of dichloromethane is stirred at room temperature for 25 minutes and is cooled to -60°. The cold acid chloride solution is added to the cold silylated quinoline and is stirred for 2 hours while the temperature comes up to 10°. The reaction mixture is evaporated to dryness and the residue is treated with water to give 2.60 g of 6-[[2-(acetylamino)-1-oxopropyl]amino]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, mp 196°-200° .

reactant | N-acetyl-L-alanine | 13.2 mmol, 1.73 g | C(C)(=O)N[C@@H](C)C(=O)O | C5H9NO3
reactant | thionyl chloride | 13.2 mmol, 0.97 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 13.02 mmol, 1.02 ml | CN(C=O)C | C3H7NO
reactant | 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 12 mmol, 2.45 g | NC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 36 mmol, 5.04 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 36 mmol, 4.57 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-[[2-(acetylamino)-1-oxopropyl]amino]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.60 g | C(C)(=O)NC(C(=O)NC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O)C | C15H15N3O5
